US09085555B2
E. Methyl 2-(3-acetyl-5-(benzyloxy)-1H-indazol-1-yl)acetate
To 1-(5-(benzyloxy)-1H-indazol-3-yl)ethanone (3.50 g, 13.1 mmol) in CH3CN (100 mL) was added K2CO3 (4.54 g, 32.9 mmol) and methyl 2-bromoacetate (1.33 mL, 14.5 mmol). The reaction mixture was stirred at 90° C. for 90 min. The reaction mixture was filtered and the solid was washed with CH3CN. Volatiles were evaporated and then the crude mixture was purified by flash column chromatography on silica gel (gradient: c-hexane/EtOAc 1:1 to 1:3). TLC, Rf (c-hexane/EtOAc 1:3)=0.64; MS (LC/MS): 339.0 [M+H]+, 361.0 [M+Na]+; tR (HPLC conditions c): 5.09 min.

reactant | 1-(5-(benzyloxy)-1H-indazol-3-yl)ethanone | 13.1 mmol, 3.50 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C(C)=O | C16H14N2O2
reactant | K2CO3 | 32.9 mmol, 4.54 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 14.5 mmol, 1.33 mL | BrCC(=O)OC | C3H5BrO2
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | Methyl 2-(3-acetyl-5-(benzyloxy)-1H-indazol-1-yl)acetate | C(C)(=O)C1=NN(C2=CC=C(C=C12)OCC1=CC=CC=C1)CC(=O)OC | C19H18N2O4
